Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
barium sulfate
 
Attending: ___.
 
Chief Complaint:
Lightheadedness, chest pain, blurry vision 
 
Major Surgical or Invasive Procedure:
___ Left craniotomy for tumor resection

 
History of Present Illness:
___ is a ___ year old female with hx of drop attacks 
who presents with complaints of lightheadedness and chest pain. 
She is an inconsistent historian. History is obtained from 
patient and medical records. She began having unprovoked 
episodes of falling ___. She underwent further workup by ___ 
Neurology in ___ with MRI/MRA, EEG, and cardiac workup. Per 
records, MRI/MRA were negative for abnormality. EEG showed 
slowing but no epileptiform discharges. Holter monitor showed 
some abnormal rhythm but she was asymptomatic during those 
times. It was determined these episodes were consistent with 
drop attacks of unknown etiology. Due to poor cognition and 
unclear baseline upon presentation to ___, she underwent NCHCT 
that was significant for brain lesion, edema and MLS. She was 
started on Dexamethasone and Keppra and Neurosurgery was 
consulted for further recommendations. At time of examination, 
she endorses right-sided upper chest pain. When questioned she 
endorses vision loss for the past ___ months and intermittent 
numbness in the right hand. She denies headache, nausea, 
vomiting, and weakness.  Of note, CXR completed in the ED was 
significant for a right apical lung lesion 8.3 x 7.1cm with 
chest wall invasion and bony destruction.
 
Past Medical History:
COPD 
Drop Attacks
 
Social History:
___
Family History:
Unknown, unable to obtain 
 
Physical Exam:
On admission 
============ 
O: T: 97.8  BP: 135/79  HR: 88  R: 20  O2Sats: 99% RA

Gen: WD/WN, comfortable, NAD.
HEENT: normocephalic, atraumatic
Neck: Supple.
Extrem: Warm and well-perfused.

Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.

Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension and repetition.

Naming intact. No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 4mm-3mm 
bilaterally. Visual fields are difficult to asses but indicate a 
possible right homonymous hemianopia.
III, IV, VI: Extraocular movements intact bilaterally without 
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: decreased bulk and normal tone bilaterally. No abnormal 
movements, tremors. Strength full power ___ throughout with the 
exception of the right tricep which is 4+/5.  
+ right pronation on drift testing
 
Sensation: Intact to light touch bilaterally.

Coordination: + dysmetria on right finger-nose-finger

============
On Discharge
============
She is A&Ox3 - answering questions appropriately. PERRL with 
EOM's intact. ___. No drift. RUE with delt/tris 4+/5 with 
remaining groups ___ in strength and equal. She is ambulating 
around room independently with steady gait. She uses a walker 
with wheels for ambulating long distances. 
Her sutures are intact with no s/s of infection, no redness, 
swelling or discharge noted. 
 
Pertinent Results:
Please see OMR for all labs and imaging.
 
Brief Hospital Course:
___ year old female with history of drop attacks, presents with 
lightheadedness, chest pain and vision changes. CT scan revealed 
 Left parieto-occipital brain lesion with MLS and a large right 
apical lung mass. 

 
#Left parieto-occipital brain lesion  
Patient was admitted to ___ from Emergency Room for further 
management. She was started on keppra, dexamethasone. She went 
to the OR on ___ for L craniotomy for tumor resection, which 
was uncomplicated; please see full operative note in OMR for 
further detail. Her neurological exam improved postoperatively, 
and remained stable while in the ___. She was transferred to 
the floor. She continued to stay neurologically stable while 
hospitalized and was deemed stable for discharge home with 
outpatient follow up. She will follow up in office and brain 
tumor conference for further oncologic follow up. She will 
remain on Keppra and Dexamethasone until follow up. 

Neuro-oncology and radiation oncology were consulted for 
treatment planning.  She was seen and examined by Physical 
therapy and occupational therapy and was cleared for discharge 
home. Case management was able to facilitate visiting nurses for 
home care and social work helped to set up medical 
transportation for patient's follow up appointments. 

#Agitation 
On ___ patient became increasingly agitated and upset that 
she could not smoke. She was offered a nicotine patch and 
attempted to deescalate patient. Patient threated to leave 
against medical advice however, psychiatry was consulted to 
assess if she had capacity to make her own decisions. It was 
deemed by psychiatry that she is unable to demonstrate adequate 
decision making capacity regarding testing and 
interventions/treatment. She was restrained with bilateral wrist 
restraints and given Haldol and ativan. EKG was obtained to 
monitor QTC interval. Social work was consulted. Her agitation 
cleared over the next few hours. Social work helped to 
facilitate the naming and authorization of a Health Care Proxy. 
On ___, psychiatry re-evaluated the patient and recommended 
Remelteon for her insomnia with good effect. 
 
#Right apical lung mass 
A CT Scan of Chest was obtained to further investigate lung mass 
viewed on Chest-xray. Results showed Large right upper lobe mass 
penetrates the chest wall toward the axilla and destroys the 
first and second ribs and is concerning for lung primary rather 
than secondary neoplasia. Thoracic surgery was consulted and 
recommended no intervention as long as tissue would be obtained 
from the brain mass. 

#Hypertension
She was noted to be hypertensive while hospitalized. She was 
started on amlodipine and up titrated to maintain a SBP<160. 
Upon discharge she was maintained on 7.5mg amlodipine po daily. 
 
Medications on Admission:
none
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild  
2.  amLODIPine 7.5 mg PO DAILY 
RX *amlodipine 5 mg 1.5 tablet(s) by mouth once a day Disp #*45 
Tablet Refills:*0 
3.  Codeine Sulfate ___ mg PO Q6H:PRN pain 
RX *codeine sulfate 15 mg ___ tablet(s) by mouth every six (6) 
hours Disp #*40 Tablet Refills:*0 
4.  Dexamethasone 2 mg PO Q12H 
This is the maintenance dose to follow the last tapered dose
RX *dexamethasone 2 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
5.  Docusate Sodium 100 mg PO BID  
6.  Famotidine 20 mg PO BID 
RX *famotidine 20 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0 
7.  LevETIRAcetam 500 mg PO BID 
RX *levetiracetam 500 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
8.  Nicotine Patch 14 mg TD DAILY  
9.  Senna 17.2 mg PO QHS  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Multiple Metastatic brain lesions
Right Lung mass
Cerebral Edema
Insomnia
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Discharge Instructions
Brain Tumor

Surgery
- You underwent surgery to remove a brain lesion from your 
brain. 
- You underwent a biopsy. A sample of tissue from the lesion in 
your brain was sent to pathology for testing. 
- Please keep your incision dry until your sutures are removed. 
- You may shower at this time but keep your incision dry.
- It is best to keep your incision open to air but it is ok to 
cover it when outside. 
- Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity
- We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
- You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
- No driving while taking any narcotic or sedating medication. 
- No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications
***Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
***You have been discharged on Keppra (Levetiracetam). This 
medication helps to prevent seizures. Please continue this 
medication as indicated on your discharge instruction. It is 
important that you take this medication consistently and on 
time. 
- You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:
- You may experience headaches and incisional pain. 
- You may also experience some post-operative swelling around 
your face and eyes. This is normal after surgery and most 
noticeable on the second and third day of surgery.  You apply 
ice or a cool or warm washcloth to your eyes to help with the 
swelling. The swelling will be its worse in the morning after 
laying flat from sleeping but decrease when up. 
- You may experience soreness with chewing. This is normal from 
the surgery and will improve with time. Softer foods may be 
easier during this time. 
- Feeling more tired or restlessness is also common.
- Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

When to Call Your Doctor at ___ for:
- Severe pain, swelling, redness or drainage from the incision 
site. 
- Fever greater than 101.5 degrees Fahrenheit
- Nausea and/or vomiting
- Extreme sleepiness and not being able to stay awake
- Severe headaches not relieved by pain relievers
- Seizures
- Any new problems with your vision or ability to speak
- Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
- Sudden numbness or weakness in the face, arm, or leg
- Sudden confusion or trouble speaking or understanding
- Sudden trouble walking, dizziness, or loss of balance or 
coordination
- Sudden severe headaches with no known reason
 
Followup Instructions:
___